US05070089
In a nitrogen atmosphere, 0.50 g (1.34 mmol.) of methyl 4-(2,5-dihydroxy-3,4-dimethoxy-6-methylbenzyl)-1-piperazinecarbodithioate was dissolved in 5 ml of dichloromethane. To the resulting solution was added 0.30 g (2.96 mmol.) of triethylamine. The solution was then chilled with ice, and to the chilled solution was dropwise added a solution of 0.25 g (2.96 mmol.) of 95%-acetyl chloride in 3 ml of dichloromethane. The mixture was then stirred for 6 hours. To the mixture were then added 10 ml of dichloromethane and a small amount of a saturated aqueous sodium hydrogen carbonate solution. The mixture was well shaken, and the organic solvent portion was taken out. The organic portion was dried over anhydrous sodium sulfate and placed under reduced pressure to give 0.63 g of methyl 4-(2,5-diacetoxy-3,4-dimethoxy-6-methylbenzyl)-1-piperazinecarbodithioate as an oil.

reactant | methyl 4-(2,5-dihydroxy-3,4-dimethoxy-6-methylbenzyl)-1-piperazinecarbodithioate | 1.34 mmol, 0.50 g | OC1=C(CN2CCN(CC2)C(=S)SC)C(=C(C(=C1OC)OC)O)C | C16H24N2O4S2
reactant | triethylamine | 2.96 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 4-(2,5-diacetoxy-3,4-dimethoxy-6-methylbenzyl)-1-piperazinecarbodithioate | 0.63 g | C(C)(=O)OC1=C(CN2CCN(CC2)C(=S)SC)C(=C(C(=C1OC)OC)OC(C)=O)C | C20H28N2O6S2
